US09376441B2
The crude TFA salt of (R)-4-((R)-1-((3-(difluoromethyl)-6-(3-methoxy-4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: 3.67 (0.054 mmol) was suspended in DCM (1 mL) and Et3N (60 μL, 0.43 mmol) was added followed by methanesulfonic anhydride (10 mg, 0.06 mmol). The resulting mixture was stirred 1.5 h and was partitioned between EtOAc, water, and brine. The phases were separated, and the aqueous phase was extracted with EtOAc (4×1.5 mL). The combined organic phase was dried over Na2SO4, filtered, and concentrated. The crude product was purified by silica gel chromatography (0-15% MeOH in DCM) to afford (R)-4-((R)-1-((3-(difluoromethyl)-6-(3-methoxy-4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (3.68).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-((R)-1-((3-(difluoromethyl)-6-(3-methoxy-4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)N2CCNCC2)OC)O[C@H](C)[C@@H]2CC(NC2)=O)F | C24H28F2N6O3
reactant | Et3N | 0.43 mmol, 60 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 0.06 mmol, 10 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-((R)-1-((3-(difluoromethyl)-6-(3-methoxy-4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)N2CCN(CC2)S(=O)(=O)C)OC)O[C@H](C)[C@@H]2CC(NC2)=O)F | C25H30F2N6O5S
